### PR TITLE
feat(BigOperators/Fin): Sum/product over `Fin` intervals

### PR DESCRIPTION
**Pull request by quangvdao**
This PR adds new theorems about the sum/product of some vector over `Fin` intervals. One example is:
```
@[to_additive]
theorem prod_Iic_succ (i : Fin n) :
    ∏ j ∈ Iic i.succ, v j = (∏ j ∈ Iic i.castSucc, v j) * v i.succ
```

---

- [x] depends on: #20360

This is in preparation for reworking `finSigmaFinEquiv` and `finProdFinEquiv` in #19013.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
Sorry, won't be able to review before a week or so

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -181,6 +171,73 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+theorem prod_Ioi_zero : ∏ i ∈ Ioi 0, v i = ∏ j : Fin n, v j.succ := by
+  rw [Ioi_zero_eq_map, Finset.prod_map, val_succEmb]
+
+@[to_additive]
+theorem prod_Ioi_succ (i : Fin n) : ∏ j ∈ Ioi i.succ, v j = ∏ j ∈ Ioi i, v j.succ := by
+  rw [Ioi_succ, Finset.prod_map, val_succEmb]
+
+@[to_additive (attr := simp)]
+theorem prod_Ici_zero : ∏ i ∈ Ici 0, v i = ∏ j : Fin (n + 1), v j := by
+  rw [Ici_eq_Icc, ← bot_eq_zero, Icc_bot_top]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Fin.lean:188]: I think here we actually just want a lemma that says `Ici 0 = univ`

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -181,6 +171,73 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+
+@[to_additive]
+theorem prod_Ici_succ (i : Fin n) :
+    ∏ j ∈ Ici i.succ, v j = ∏ j ∈ Ici i, v j.succ := by
+  rw [Ici_succ, Finset.prod_map, val_succEmb]
+
+@[to_additive (attr := simp)]
+theorem prod_Iio_zero : ∏ i ∈ Iio 0, v i = 1 := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Fin.lean:196]: And Iio 0 = empty would be good too. Can this be stated for all canonically ordered types?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 3]
```diff
@@ -181,6 +171,73 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+
+@[to_additive]
+theorem prod_Iio_succ (i : Fin n) :
+    ∏ j ∈ Iio i.succ, v j = (∏ j ∈ Iio i.castSucc, v j) * v i.castSucc := by
+  calc
+    _ = ∏ j ∈ Icc 0 i.castSucc, v j := prod_congr rfl (fun _ _ => rfl)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Fin.lean:202]: These don't look that rfl; are there lemmas you can use instead?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 4]
```diff
@@ -181,6 +171,73 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+
+@[to_additive]
+theorem prod_Iio_eq_univ (i : Fin (n + 1)) :
+    ∏ j ∈ Iio i, v j = ∏ j : Fin i, v (Fin.castLE i.isLt.le j) := by
+  induction i using Fin.induction with
+  | zero => simp only [prod_Iio_zero, val_zero, univ_eq_empty, prod_empty]
+  | succ i hi => simp only [prod_Iio_succ, hi, prod_univ_castSucc, val_succ]; congr
+
+@[to_additive (attr := simp)]
+theorem prod_Iic_zero : ∏ j ∈ Iic 0, v j = v 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Fin.lean:217]: Iic 0 = {0} might also be enough, or you could keep this one as well for symmetry

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Fin.lean:217]: Yes, please prove `Iic 0 = {0}`

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 5]
```diff
@@ -308,6 +308,19 @@ section LocallyFiniteOrderTop
 
 variable [LocallyFiniteOrderTop α]
 
+@[simp]
+theorem Ioi_eq_empty_iff : Ioi a = ∅ ↔ IsMax a := by
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Finset/Basic.lean:312]: The `_iff` is redundant. Same below
```suggestion
theorem Ioi_eq_empty : Ioi a = ∅ ↔ IsMax a := by
```

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 3 above)
Comment (quangvdao) [reply Mathlib/Algebra/BigOperators/Fin.lean:203]: Note that the second `rfl` is actually trivial (of the form `v x = v x`), only the first is not (and this is due to how `Icc` is defined for `Fin`).

I can't find any lemma for the first `rfl`. Such a lemma would need to be particular to `Fin`, or any canonically ordered type.

File: Mathlib/Order/Interval/Finset/Basic.lean (hunk 5 above)
Comment (quangvdao) [reply Mathlib/Order/Interval/Finset/Basic.lean:312]: I wanted uniform naming compared to the `Set` version (in `Order/Interval/Set/Basic`)

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 3 above)
Comment (quangvdao) [reply Mathlib/Algebra/BigOperators/Fin.lean:203]: I could add this extra lemma
```
-- Add this to [Mathlib.Order.Interval.Finset.Fin]
-- Also add similar theorems for other intervals
theorem Iio_succ (b : Fin n) : Iio b.succ = Iic b.castSucc := rfl

@[to_additive]
theorem prod_Iio_succ (i : Fin n) :
    ∏ j ∈ Iio i.succ, v j = (∏ j ∈ Iio i.castSucc, v j) * v i.castSucc := by
  calc
    _ = ∏ j ∈ Icc 0 i.castSucc, v j :=
      prod_congr (by rw [Iio_succ, ← bot_eq_zero, Icc_bot]) (fun _ _ => rfl)
```
Would this be better?

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 6]
```diff
@@ -656,6 +656,7 @@ theorem card_Iio_eq_card_Iic_sub_one (a : α) : #(Iio a) = #(Iic a) - 1 := by
 
 end OrderBot
 
+
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Finset/Basic.lean:659]: Please revert this change to avoid touching this file!

Comment (quangvdao) [reply Mathlib/Order/Interval/Finset/Basic.lean:659]: Thanks for catching, I left out one line while merging.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 7]
```diff
@@ -181,6 +171,74 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+theorem prod_Ioi_zero : ∏ i ∈ Ioi 0, v i = ∏ j : Fin n, v j.succ := by
+  rw [Ioi_zero_eq_map, Finset.prod_map, val_succEmb]
+
+@[to_additive]
+theorem prod_Ioi_succ (i : Fin n) : ∏ j ∈ Ioi i.succ, v j = ∏ j ∈ Ioi i, v j.succ := by
+  rw [Ioi_succ, Finset.prod_map, val_succEmb]
+
+@[to_additive (attr := simp)]
+theorem prod_Ici_zero : ∏ i ∈ Ici 0, v i = ∏ j : Fin (n + 1), v j := by
+  rw [← bot_eq_zero, Ici_bot]
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Fin.lean:188]: We don't really want this lemma as stated because it has nothing to do with `∏`. It is merely an equality of the index sets of two `∏`. Instead of this lemma, you should add `Ici 0 = univ` as a simp lemma

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 8]
```diff
@@ -181,6 +171,74 @@ theorem prod_trunc {M : Type*} [CommMonoid M] {a b : ℕ} (f : Fin (a + b) → M
...
+
+@[to_additive]
+theorem prod_Ici_succ (i : Fin n) :
+    ∏ j ∈ Ici i.succ, v j = ∏ j ∈ Ici i, v j.succ := by
+  rw [Ici_succ, Finset.prod_map, val_succEmb]
+
+@[to_additive (attr := simp)]
+theorem prod_Iio_zero : ∏ i ∈ Iio 0, v i = 1 := by
+  rw [← bot_eq_zero, Iio_bot, prod_empty]
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Fin.lean:197]: Similarly here, you should replace this by a simp lemma `Iio 0 = ∅`

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Fin.lean:218]: @quangvdao you don't seem to have replaced this lemma by `Iic 0 = {0}`

File: Mathlib/Data/Fintype/Fin.lean [hunk 9]
```diff
@@ -47,12 +47,22 @@ theorem Ioi_succ (i : Fin n) : Ioi i.succ = (Ioi i).map (Fin.succEmb _) := by
...
+  rw [Ici_eq_cons_Ioi, Ici_eq_cons_Ioi, map_cons]
+  simp only [Ioi_succ, cons_eq_insert, val_succEmb]
+
 @[simp]
 theorem Iio_castSucc (i : Fin n) : Iio (castSucc i) = (Iio i).map Fin.castSuccEmb := by
   apply Finset.map_injective Fin.valEmbedding
   rw [Finset.map_map, Fin.map_valEmbedding_Iio]
   exact (Fin.map_valEmbedding_Iio i).symm
 
+theorem Iic_castSucc (i : Fin n) : Iic (castSucc i) = (Iic i).map (Fin.castSuccEmb) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Fin.lean:61]:
```suggestion
theorem Iic_castSucc (i : Fin n) : Iic (castSucc i) = (Iic i).map Fin.castSuccEmb := by
```

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Fin.lean:215]: I guess this lemma can now be deleted.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
